US03987174
A solution of 2-(4-chlorophenyl)-3-(2,3-epoxypropoxy)-isoindolin-1-one (15 g.) and isopropyl-amine (75 cc.) in anhydrous toluene (250 cc.) is heated under reflux for 5 days. The reaction mixture is then evaporated to dryness under reduced pressure and the residue obtained is recrystallised from ethyl acetate (60 cc.). After drying, 2-(4-chlorophenyl)-3-(2-hydroxy-3-isopropylamino-propoxy)-isoindolin-1-one (13 g.), melting at 107° C., is obtained.

reactant | 2-(4-chlorophenyl)-3-(2,3-epoxypropoxy)-isoindolin-1-one | 15 g | ClC1=CC=C(C=C1)N1C(C2=CC=CC=C2C1OCC1CO1)=O | C17H14ClNO3
reactant | isopropyl-amine | 75 cc | C(C)(C)N | C3H9N
solvent | toluene | 250 cc | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chlorophenyl)-3-(2-hydroxy-3-isopropylamino-propoxy)-isoindolin-1-one | 13 g | ClC1=CC=C(C=C1)N1C(C2=CC=CC=C2C1OCC(CNC(C)C)O)=O | C20H23ClN2O3
